US07439257B2
4.3. 2-(ethyloxy)-2-oxoethyl 4-[(4-bromo-phenyl)oxy]-1-piperidinecarboxylate
2.7 g (7.58 mmol) of 4-[(4-bromophenyl)-oxy]piperidine, prepared in Step 4.2., and 1.70 g (7.6 mmol) of ethyl {[(phenyloxy)carbonyl]oxy}acetate, prepared in accordance with Example 1.1, are mixed in 40 ml of toluene and the solution is heated at 50° C. for 20 hours. After cooling, it is evaporated to dryness and the product is purified by chromatography on silica gel, eluting with a 40/60 mixture of ethyl acetate and cyclohexane. The eluate is subsequently triturated in diisopropyl ether, to give 2.9 g of product in powder form.

reactant | 4-[(4-bromophenyl)-oxy]piperidine | 7.58 mmol, 2.7 g | BrC1=CC=C(C=C1)OC1CCNCC1 | C11H14BrNO
reactant | ethyl {[(phenyloxy)carbonyl]oxy}acetate | 7.6 mmol, 1.70 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(ethyloxy)-2-oxoethyl 4-[(4-bromo-phenyl)oxy]-1-piperidinecarboxylate | 2.9 g | BrC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC(=O)OCC | C16H20BrNO5
